US08431569B2
Step 3. (1R)-1-Cyclopropyl-2,2,2-trifluoroethanaminium chloride
N-[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]-2-methylpropane-2-sulfinamide ((S,R), 16.55 g, 68.0 mmol) was dissolved in MeOH (34 ml) and 4 M HCl in dioxane (34.0 ml, 136 mmol) was added. The reaction mixture was allowed to stir for 30 min, and concentrated to half the volume. Ether was added to the mixture, and the resultant precipitate was collected by filtration to give the title compound.

reactant | N-[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]-2-methylpropane-2-sulfinamide | 68.0 mmol, 16.55 g | C1(CC1)[C@H](C(F)(F)F)NS(=O)C(C)(C)C | C9H16F3NOS
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 136 mmol, 34.0 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 34 ml | CO | CH4O
product | (1R)-1-Cyclopropyl-2,2,2-trifluoroethanaminium chloride | [Cl-].C1(CC1)[C@H](C(F)(F)F)[NH3+] | InChI=1S/C5H8F3N.ClH/c6-5(7,8)4(9)3-1-2-3;/h3-4H,1-2,9H2;1H/t4-;/m1./s1
